US08470823B2
2-Cyclopropyl-4-methylpyridin-3-amine (FF1)
Following a modified synthetic procedure reported in J. Org. Chem. 2003, 68, 5534, a mixture of 2-bromo-4-methylpyridin-3-amine (1.0 eq.), potassium cyclopropyltrifluoroborate (2.0 eq.), Cs2CO3 (3.0 eq.) and PdCl2(dppf)-CH2Cl2 adduct (0.1 eq.) in 10:1 solution THF:H2O (0.14M) was put in a 10-mL glass vial equipped with a small magnetic stirring bar. The reaction vessel was fitted with a rubber septum, was evacuated and back-filled with argon and sealed with an aluminum/Teflon crimp top. The reaction mixture was then heated for O/N at 80° C. After completion of the reaction, the vial was cooled to RT before it was opened. The reaction mixture was diluted with EtOAc and filtered on a pad of Solca Floc®200FCC. The crude product was purified by flash chromatography eluting with 10-100% EtOAc/petroleum ether affording the titled compound as brown oil. 1H-NMR (400 MHz, DMSO-d6, 300K) δ 7.55 (1H, d, J=4.7 Hz), 6.75 (1H, d, J=4.7 Hz), 4.89 (2H, br. s), 2.13-2.04 (4H, m), 0.85-0.68 (4H, m). MS (ES) C9H12N2 requires: 148, found: 149 (M+H)+.

reactant | 2-bromo-4-methylpyridin-3-amine | 1.0 eq. | BrC1=NC=CC(=C1N)C | C6H7BrN2
reactant | potassium cyclopropyltrifluoroborate | 2.0 eq. | C1(CC1)[B-](F)(F)F.[K+]
reactant | Cs2CO3 | 3.0 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | H2O | 0.14M | O | H2O
product | 2-Cyclopropyl-4-methylpyridin-3-amine | C1(CC1)C1=NC=CC(=C1N)C | C9H12N2
